US07598267B2
1-Azabicyclo[2.2.2]oct-4-yl(di-2-thienyl)acetonitrile
Following the general procedure for cyano formation outlined in Example 1, 1-azabicyclo[2.2.2]oct-4-yl(di-2-thienyl)methanol (0.3065 g, 1.003 mmol), AlCl3 (0.661 g, 4.99 mmol) and TMSCN (0.66 mL, 4.95 mmol) in 1,2-dichloroethane (17.0 mL) were reacted to give the desired product (0.1073 g, 34.1%). EI-MS m/z 315 (M+) Rt (1.65 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(di-2-thienyl)methanol | 1.003 mmol, 0.3065 g | N12CCC(CC1)(CC2)C(O)(C=2SC=CC2)C=2SC=CC2 | C16H19NOS2
reactant | AlCl3 | 4.99 mmol, 0.661 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | TMSCN | 4.95 mmol, 0.66 mL | [Si](C)(C)(C)C#N | C4H9NSi
solvent | 1,2-dichloroethane | 17.0 mL | ClCCCl | C2H4Cl2
product | 1-Azabicyclo[2.2.2]oct-4-yl(di-2-thienyl)acetonitrile | 0.1073 g, 34.1% | N12CCC(CC1)(CC2)C(C#N)(C=2SC=CC2)C=2SC=CC2 | C17H18N2S2
